Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Percocet
 
Attending: ___
 
Chief Complaint:
symptomatic fibroids
 
Major Surgical or Invasive Procedure:
abdominal myomectomy, lysis of adhesions, left ovary cystectomy

 
History of Present Illness:
___ G0P0 ___ AAF healthy female with known uterine fibroids
here today to discuss fibroid treatments.

The patient reports regular menses every ___ days with seven
days of heavy flow and some dysmenorrhea. Of note, the patient
reports being on Coumadin for six months for a left lower
extremity DVT that was diagnosed in the setting of a broken 
ankle
while in the cast.  She admits that her cyclic menorrhagia was
even worse while being anticoagulated but continues to persist
over this last year while she is off the Coumadin.  She would
like therapy.

Fibroid eval includes:
- PUS (___):  UT 12.7 x 8.5 x 8.7 cm w/ multiple fibroids
(6.1 cm R post fundal IM w/ SM component, 5.2 cm ant mid-ut IM 
w/
SM component).  Distorted EMS 15 mm, ? 1.4 cm endometrial lesion
polyp vs fibroid.
- Labs (___): HCT 34.1.
- EMB ___ by Dr. ___ per patient report.
 
Past Medical History:
OB History:  G0P0.

GYN History:  Menarche at age ___.  LMP ___.  Regular
menses ___, seven days of cyclic menorrhagia and some
dysmenorrhea. Denies history of abnormal Pap.  Last Pap ___
negative SIL.  The patient is sexually active, heterosexual,
reports 10 sexual partners throughout life, uses condoms as
needed for STD protection and contraception.  Denies history of
any STDs.

MEDICAL PROBLEMS:
1.  Uterine fibroids.
2.  Iron deficiency anemia.
3.  Left lower extremity DVT in the setting of broken ankle in a
cast. s/p 6-mo Coumadin anticoagulation (completed ___.

SURGICAL HISTORY:  None.
 
Social History:
___
Family History:
Reports a strong family history for diabetes,
hypertension, heart disease, hypercholesterolemia, and multiple
uncles, aunts, mother and grandmother.
 
Physical Exam:
On discharge:
99.5, 98.3, 114/74, 106, 16, 96%RA
NAD
RRR
CTAB throughout, slightly decreased at bases
Abd: soft, nontender, hypoactive bowel sounds, appropriate 
tenderness, voluntary guarding, no peritoneal signs, old 
serosang stain on primary dressing
GU: scant VB
RLE: +sensation, slight soreness with palpation of calf, no 
swelling/induration/erythema, LLE NT, -___ sign x 2
 
Pertinent Results:
___ 08:05AM BLOOD WBC-6.8 RBC-3.57* Hgb-9.9* Hct-30.1* 
MCV-84 MCH-27.6 MCHC-32.8 RDW-18.3* Plt ___
___ 01:55AM BLOOD WBC-7.0 RBC-3.67* Hgb-9.9* Hct-31.3* 
MCV-85 MCH-26.9* MCHC-31.6 RDW-18.4* Plt ___
___ 01:30PM BLOOD WBC-7.1 RBC-3.78* Hgb-10.3* Hct-32.2* 
MCV-85 MCH-27.3 MCHC-32.1 RDW-18.2* Plt ___
___ 06:15AM BLOOD WBC-7.2 RBC-3.77* Hgb-10.3* Hct-31.3* 
MCV-83 MCH-27.3 MCHC-32.8 RDW-18.8* Plt ___
___ 05:42PM BLOOD WBC-12.7*# RBC-4.12* Hgb-10.9* Hct-34.8* 
MCV-85 MCH-26.4* MCHC-31.2 RDW-19.0* Plt ___
___ 05:42PM BLOOD ___ PTT-26.8 ___
___ 05:42PM BLOOD ___
___ 01:55AM BLOOD UreaN-10 Creat-0.8

___ Bilateral Lower Extremity Ultrasound:
No evidence of deep venous thrombosis

___ CTA Chest:
1. Severely limited study due to respiratory motion. However, 
evaluation of the central pulmonary arterial vasculature 
demonstrates no large central pulmonary emboli. However, 
segmental and smaller pulmonary arteries are not reliably 
evaluated. 
2. New right lower lobe atelectasis. 
3. Two 4 mm middle lobe nodules stable since ___. No 
further followup is necessary. 
 
Brief Hospital Course:
On ___, Ms. ___ was admitted after undergoing abdominal 
myomectomy, left ovarian cystectomy, and lysis of adhesions for 
symptomatic fibroids. Her HCT was 34.2 pre-op and 32 
intraoperatively, where EBL was 1200cc. She received 24 hours of 
subcutaneous heparin prophylaxis, given her prior history of 
DVT.

On post-operative day 1, she was afebrile but tachycardic up to 
110 despite stable HCT 31.3 and 32.2, good urine output, and 
benign abdominal exam. She denied any symptoms of DVT or PE, and 
her tachycardia resolved. As her urine output was good, her 
foley was removed and she voided spontaneously. Her diet was 
advanced and she tolerated a regular diet without problems. She 
was also ambulating without difficutly, so her heparin 
prophylaxis was discontinued.

On post-operative day 2, she again had tachycardia up to 110 and 
new R lower leg tenderness on exam, so a work-up for DVT/PE was 
pursued. Her HCT was stable at 31.3 and 30.3. Ultrasound of both 
lower extremities were negative for DVT. A CTA Chest, which was 
limited by motion artifact, had no evidence of large PE and 
demonstrated some right lung atelectasis. Her tachycardia with 
her pulse in the ___. Since she was tolerating a regular diet, 
ambulating independently, voiding spontaneously, and pain was 
controlled with oral medications, she was discharged home in 
good condition.
 
Medications on Admission:
iron
 
Discharge Medications:
1. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain.
Disp:*50 Tablet(s)* Refills:*1*
2. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for Pain.
Disp:*50 Tablet(s)* Refills:*0*
3. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation: hold for loose stools.  Take daily 
while on narcotics and iron.
Disp:*60 Capsule(s)* Refills:*2*
4. Iron (ferrous sulfate) 325 mg (65 mg iron) Tablet Sig: One 
(1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fibroid uterus
endometriosis

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
You underwent the surgeries listed below.  Due to your history 
of clots and concern for occasional increased heartrate, 
ultrasounds and a CT scan were done.  The ultrasounds showed no 
clots in your legs.  The CT scan was a limited study due to too 
much movement, but it did not show any concern for a large clot. 
 It did show two small nodules in your lungs that have been 
unchanged for several years and do not appear concerning.  You 
may discuss this with your primary care physician.

General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex), no 
heavy lifting of objects >10lbs for 6 weeks.  
* You may eat a regular diet  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.  
* If you have staples, they will be removed at your follow-up 
visit.  
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 
Followup Instructions:
___